US06455708B1
A mixture of 3-bromo-4-chlorobenzotrifluoride (1.50 g), 1-fluoro-2-fluoromethyl-3-buten-2-ol (0.80 g), potassium carbonate (2.10 g), tetrabutylammonium bromide (325 mg), palladium acetate (56 mg) and N,N-dimethylacetamide (10 ml) was stirred under a nitrogen atmosphere at 80° C. for 14 hours. To the reaction mixture, 1 N HCl was added followed by extraction with a hexane/ethyl acetate mixed (1/1) solvent; the resulting organic layers were combined and washed with a saturated aqueous solution of sodium thiosulfate and a saturated aqueous solution of sodium chloride; the mixture was dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=10/1) to give 4-(2-chloro-5-trifluoromethylphenyl)-1-fluoro-2-fluoromethyl-3-trans-buten-2-ol (1.53 g) having a melting point of 61-62° C.

reactant | 3-bromo-4-chlorobenzotrifluoride | 1.50 g | BrC=1C=C(C=CC1Cl)C(F)(F)F | C7H3BrClF3
reactant | 1-fluoro-2-fluoromethyl-3-buten-2-ol | 0.80 g | FCC(C=C)(O)CF | C5H8F2O
reactant | potassium carbonate | 2.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1 N | Cl | ClH
catalyst | tetrabutylammonium bromide | 325 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 56 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | 4-(2-chloro-5-trifluoromethylphenyl)-1-fluoro-2-fluoromethyl-3-trans-buten-2-ol | 1.53 g | ClC1=C(C=C(C=C1)C(F)(F)F)/C=C/C(CF)(O)CF | C12H10ClF5O
